US05686469
1-[2-(S)-[(Adamantan-1-yl)carbonyl]amino-4-methylpentyl]-L-proline 4-Phenylbutylamide
In a round bottom flask were added 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide (20 mg), triethylamine (20 uL) and anhydrous dichloromethane (1 mL). 1-Adamantylcarbonyl chloride (17 mg) was added, and the reaction was stirred at 22° C. for 12 hours. The reaction mixture was washed with said aq NaHCO3, said aq NaCl, dried (MgSO4) and evaporated under reduced pressure. The crude reaction was chromatographed with acidic silica to provide 12 mg (42%) of the title compound. The 1H NMR and Mass spectrum analysis of this compound was consistent with the structure.

reactant | 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide | 20 mg | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)N)=O | C21H35N3O
reactant | triethylamine | 20 uL | C(C)N(CC)CC | C6H15N
reactant | 1-Adamantylcarbonyl chloride | 17 mg | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1-[2-(S)-[(Adamantan-1-yl)carbonyl]amino-4-methylpentyl]-L-proline 4-Phenylbutylamide | 12 mg, 42% | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)NC(=O)C12CC3CC(CC(C1)C3)C2)=O | C32H49N3O2
